* C:\Users\SnigdhaYS\Documents\LTSpice_LDO_Automation\Externally_Compensated\Miller_LDO_Sim_Benches_502\LDO_Transient_IIIT.asc
M1 OTAout Vref N002 N002 nmos292p L=l1 W=Wdiff
M2 N001 OUT N002 N002 nmos292p L=l1 W=Wdiff
M3 N002 Bias 0 0 nmos292p L=0.18u W=10u
M4 N001 N001 Vdd Vdd pmos292p L=l2 W=Wload
M5 OTAout N001 Vdd Vdd pmos292p L=l2 W=Wload
MPass OUT OTAout Vdd Vdd pmos292p L=0.18u W=Wpass
M7 OUT Bias 0 0 nmos292p L=0.18u W=10u
V1 Vdd 0 {Vin} AC 1
V2 Vref 0 {Vout}
M8 Bias Bias 0 0 nmos292p L=0.18u W=10u
I1 Vdd Bias {ibias}
iload OUT 0 PULSE({Iload_min} {Iload} {Tdelay} {Trise} {Tfall} {Ton} {Tperiod} {Ncycles})
C2 OUT 0 {Cload}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\SnigdhaYS\Documents\LTspiceXVII\lib\cmp\standard.mos
.include C:\Users\SnigdhaYS\Documents\LTSpice_LDO_Automation\models_292p.txt
;.ac dec 20 10 1G
.op
;.step param Wload 50u 200u 50u
.tran 1m
.param ibias=50.0u
.param l1=0.54u
* Please set the parameters in all the .param statements below
.param Wload=7.554208840548477u
.param Wdiff=3.032859390350214u
.param Wpass=1205.7710162232954u
* Also, set the capacitance values
.param Vin=1.4
.param Vout=1.0
.param l2=0.36u
.param Cload=1.0u
.param Iload=10.0m
.param iload_min=2.0m
.param tdelay=0.0u
.param trise=0.001u
.param tfall=0.001u
.param ton=0.25u
.param tperiod=0.5u
.param ncycles=1000.0
.backanno
.end
